### PR TITLE
[Merged by Bors] - feat: Port Data.QPF.Multivariate.Basic

### PR DESCRIPTION
**Pull request by casavaca**
---

- [x] depends on: #1835 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1835
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by casavaca** [comment]
CI is happy. Just need to rebase on master when its dependency is merged.

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1835~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/QPF/Multivariate/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,290 @@
...
+
+/-- A qpf is said to be uniform if every polynomial functor
+representing a single value all have the same range. -/
+def IsUniform : Prop :=
+  ∀ ⦃α : TypeVec n⦄ (a a' : q.p.A) (f : q.p.B a ⟹ α) (f' : q.p.B a' ⟹ α),
+    abs ⟨a, f⟩ = abs ⟨a', f'⟩ → ∀ i, f i '' univ = f' i '' univ
+#align mvqpf.is_uniform MvQPF.IsUniform
+
+/-- does `abs` preserve `liftp`? -/
+def LiftpPreservation : Prop :=
```
Comment (alexkeizer) [inline Mathlib/Data/QPF/Multivariate/Basic.lean:221]:
```suggestion
def LiftPPreservation : Prop :=
```

File: Mathlib/Data/QPF/Multivariate/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,290 @@
...
+#align mvqpf.liftp_iff_of_is_uniform MvQPF.liftP_iff_of_isUniform
+
+theorem supp_map (h : q.IsUniform) {α β : TypeVec n} (g : α ⟹ β) (x : F α) (i) :
+    supp (g <$$> x) i = g i '' supp x i := by
+  rw [← abs_repr x]; cases' repr x with a f; rw [← abs_map, MvPFunctor.map_eq]
+  rw [supp_eq_of_isUniform h, supp_eq_of_isUniform h, ← image_comp]
+  rfl
+#align mvqpf.supp_map MvQPF.supp_map
+
+theorem suppPreservation_iff_uniform : q.SuppPreservation ↔ q.IsUniform := by
```
Comment (alexkeizer) [inline Mathlib/Data/QPF/Multivariate/Basic.lean:261]:
```suggestion
theorem suppPreservation_iff_isUniform : q.SuppPreservation ↔ q.IsUniform := by
```
Or change `liftP_iff_of_isUniform` above to `liftP_iff_of_uniform`

File: Mathlib/Data/QPF/Multivariate/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,290 @@
...
+    simp only [liftP_iff_of_isUniform, supp_eq_of_isUniform, MvPFunctor.liftP_iff', h',
+      image_univ, mem_range, exists_imp]
+    constructor <;> intros <;> subst_vars <;> solve_by_elim
+  · rintro α ⟨a, f⟩
+    simp only [LiftpPreservation] at h
+    ext
+    simp only [supp, h, mem_setOf_eq]
+#align mvqpf.supp_preservation_iff_liftp_preservation MvQPF.suppPreservation_iff_liftpPreservation
+
+theorem liftpPreservation_iff_uniform : q.LiftpPreservation ↔ q.IsUniform := by
```
Comment (alexkeizer) [inline Mathlib/Data/QPF/Multivariate/Basic.lean:285]:
```suggestion
theorem liftPPreservation_iff_isUniform : q.LiftPPreservation ↔ q.IsUniform := by
```

File: Mathlib/Data/QPF/Multivariate/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,290 @@
...
+theorem suppPreservation_iff_uniform : q.SuppPreservation ↔ q.IsUniform := by
+  constructor
+  · intro h α a a' f f' h' i
+    rw [← MvPFunctor.supp_eq, ← MvPFunctor.supp_eq, ← h, h', h]
+  · rintro h α ⟨a, f⟩
+    ext
+    rwa [supp_eq_of_isUniform, MvPFunctor.supp_eq]
+#align mvqpf.supp_preservation_iff_uniform MvQPF.suppPreservation_iff_uniform
+
+theorem suppPreservation_iff_liftpPreservation : q.SuppPreservation ↔ q.LiftpPreservation := by
```
Comment (alexkeizer) [inline Mathlib/Data/QPF/Multivariate/Basic.lean:270]:
```suggestion
theorem suppPreservation_iff_liftPPreservation : q.SuppPreservation ↔ q.LiftPPreservation := by
```

File: Mathlib/Data/QPF/Multivariate/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,290 @@
...
+
+
+universe u
+
+open MvFunctor
+
+/-- Multivariate quotients of polynomial functors.
+-/
+class MvQPF {n : ℕ} (F : TypeVec.{u} n → Type _) [MvFunctor F] where
+  p : MvPFunctor.{u} n
```
Comment (alexkeizer) [inline Mathlib/Data/QPF/Multivariate/Basic.lean:89]:
```suggestion
  P : MvPFunctor.{u} n
```
I would write this one as a capital P, since that is how we commonly refer to polynomial functors

**Review by alexkeizer — COMMENTED** [review]
There

**Comment by alexkeizer** [comment]
The dependency is merged, so I merged master for you

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
